data/oMe_Silver.jsonl
{"reaction_id": "NR-128_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","name": "Kucherov Reaction","level": "medium","reactants_smiles": ["CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C#C"],"products_smiles": ["CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C(=O)C"],"conditions": "O, [H+]","mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2[C+]=C","rationale": "Protonation of the alkyne generates a more electrophilic vinyl cation, stabilized by adjacent substituents and resonance, facilitating subsequent nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C(=C)[OH2+]","rationale": "Water, abundant under acidic conditions, attacks the electrophilic carbocation center, forming a protonated enol intermediate due to oxygen’s nucleophilicity."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C(O)=C","rationale": "Deprotonation of the oxonium species restores neutrality, yielding the enol form, which is less stable than the keto tautomer."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C(=[OH+])C","rationale": "Protonation at the enol oxygen increases the electrophilicity of the adjacent carbon, priming the system for tautomerization to the keto form."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C(=O)C","rationale": "Deprotonation of the protonated carbonyl yields the thermodynamically favored ketone, driven by strong C=O bond formation and resonance stabilization."}],"description": "In the acid-catalyzed Kucherov reaction, an alkyne undergoes electrophilic hydration to yield a ketone via enol intermediates. Protonation activates the triple bond toward nucleophilic attack by water, followed by tautomerization driven by the thermodynamic stability of the carbonyl group."}
